US05489602
To a suspension of lithium aluminum hydride (LiAlH4) (0.7 g) in ethyl ether (40 ml), a solution of ethyl 2-(4-benzyl-5-methyl-2-oxazolyl)acetate (4.76 g) in ethyl ether (60 ml) was added dropwise under ice cooling conditions, followed by stirring for 1 hour. After water (5 ml) was added dropwise to the reaction mixture, the insoluble substances were filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography. From the fraction eluted with chloroform-ethyl acetate (2:1, v/v), 2-(4-benzyl-5-methyl-2-oxazolyl)ethanol (3.0 g, 75%) was obtained as an oily substance.

reactant | lithium aluminum hydride | 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(4-benzyl-5-methyl-2-oxazolyl)acetate | 4.76 g | C(C1=CC=CC=C1)C=1N=C(OC1C)CC(=O)OCC | C15H17NO3
reactant | water | 5 ml | O | H2O
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-(4-benzyl-5-methyl-2-oxazolyl)ethanol | 3.0 g, 75% | C(C1=CC=CC=C1)C=1N=C(OC1C)CCO | C13H15NO2
